US08048899B2
To a solution of 190 mg (0.34 mmol) of N-[5-(1,1-dimethyl-2-triisopropylsilanyloxy-ethyl)-isoxazol-3-yl]-2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethanesulfonyl]-propionamide in THF (2 mL) are added 1.7 mL (1M solution in THF, 1.7 mmol) of tetrabutylammonium fluoride. The reaction is stirred at room temperature for 18 h and then diluted with 1M aqueous NH4Cl solution (5 mL). The aqueous layer is extracted with DCM (3×25 mL). The combined organic extracts are dried over Na2SO4 and filtered and the filtrate concentrated under reduced pressure to give 46 mg of N-[5-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-3-yl]-2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethanesulfonyl]-propionamide. Yield: 34%, ES-MS: m/z 403 [M+H]

reactant | N-[5-(1,1-dimethyl-2-triisopropylsilanyloxy-ethyl)-isoxazol-3-yl]-2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethanesulfonyl]-propionamide | 0.34 mmol, 190 mg | CC(CO[Si](C(C)C)(C(C)C)C(C)C)(C)C1=CC(=NO1)NC(C(C)(S(=O)(=O)CCC1CCOCC1)C)=O | C27H50N2O6SSi
reactant | tetrabutylammonium fluoride | 1.7 mmol, 1M, 1.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 1M, 5 mL | [NH4+].[Cl-]
product | N-[5-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-3-yl]-2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethanesulfonyl]-propionamide | 46 mg, Yield: 34% | OCC(C)(C)C1=CC(=NO1)NC(C(C)(S(=O)(=O)CCC1CCOCC1)C)=O | C18H30N2O6S
